US07354933B2
0.073 ml of acetic acid is added to a solution of 0.111 g of 2-fluoro-4-methylpyridine in 2.5 ml of carbon tetrachloride, under an inert atmosphere of argon at a temperature in the region of 20° C. The mixture is brought, with stirring, to a temperature of 50° C. 0.356 g of N-bromosuccinimide and 0.048 g of benzoyl peroxide are successively added at this temperature. The mixture is brought to 80° C. over about 16 hours. After cooling, the reaction medium is placed on a cartridge 20 mm in diameter packed with 10 g of 20-40 μm silica not conditioned beforehand, and then eluted with dichloromethane at a flow rate of 5 ml/minute. The fractions between 28 and 38 ml are concentrated to dryness under reduced pressure. 0.063 g of 2-fluoro-4-(bromomethyl)pyridine is thus obtained.

reactant | acetic acid | 0.073 ml | C(C)(=O)O | C2H4O2
reactant | 2-fluoro-4-methylpyridine | 0.111 g | FC1=NC=CC(=C1)C | C6H6FN
reactant | N-bromosuccinimide | 0.356 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl peroxide | 0.048 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | carbon tetrachloride | 2.5 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-fluoro-4-(bromomethyl)pyridine | 0.063 g | FC1=NC=CC(=C1)CBr | C6H5BrFN
